US07119102B2
[2-(5-Benzylcarbamoyl-pyridin-2-yl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester (47.0 mg, 0.129 mmol) was dissolved into 2 mL of EtOAc and 4.0 N HCl in dioxane (1.0 mL, 4 mmol) was added. The reaction was allowed to stir overnight. The resulting precipitate was triturated with 3×5 mL of THF and concentrated on a rotary evaporator to dryness to give 43 mg of 6-(2-amino-1-hydroxy-ethyl)-N-benzyl-nicotinamide 2HCl.

reactant | [2-(5-Benzylcarbamoyl-pyridin-2-yl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester | 0.129 mmol, 47.0 mg | C(C)(C)(C)OC(NCC(O)C1=NC=C(C=C1)C(NCC1=CC=CC=C1)=O)=O | C20H25N3O4
reactant | HCl | 4.0 N | Cl | ClH
reactant | dioxane | 4 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 6-(2-amino-1-hydroxy-ethyl)-N-benzyl-nicotinamide 2HCl | 43 mg | Cl.Cl.NCC(O)C1=NC=C(C(=O)NCC2=CC=CC=C2)C=C1 | InChI=1S/C15H17N3O2.2ClH/c16-8-14(19)13-7-6-12(10-17-13)15(20)18-9-11-4-2-1-3-5-11;;/h1-7,10,14,19H,8-9,16H2,(H,18,20);2*1H
